US05273975
(-) t-Butoxycarbonyl N-(1,2,5,6-tetrahydro-2-oxo-4H-imidazo(4,5,1-ij)quinolin-5-yl)-L-phenylalaninamide (1.8 g) was stirred in ethanolic hydrogen chloride (50 mL of 4.0 N) for 1 hour. The solvent was removed and the residual oil was partitioned between chloroform and sodium hydroxide solution. Evaporation of the chloroform gave 1.4 g of (-) N-(1,2,5,6-tetrahydro-2-oxo-4H-imidazo(4,5,1-ij)quinolin-5-yl)phenylalaninamide. This was dissolved in acetonitrile:THF (30 mL of 1:1) and phenyl isothiocycanate (675 mg, 5 mmol) was added. After 1 hour, the solvents were removed and the residual oil was chromatographed on silica gel using chloroform as the initial eluant. Elution of the column with 5% methanol:chloroform gave 1.8 g of (-) N-((phenylamino)thiocarbonyl)-N-(1,2,5,6-tetrahydro-2-oxo-4H-imidazo(4,5,1-ij)quinolin-5-yl)phenylalaninamide. This was dissolved in trifluoroacetic acid (25 mL). After 1 hour the solvent was removed and the residue was dissolved in methanol (5 mL). Ether (50 mL) was added, the solution was cooled to - 10° C., and the precipitate was filtered off, washed with ether, and air dried to give 1.2 g of (-) 5-amino-5,6-dihydro-4H-imidazo(4,5,1-ij)quinolin-2(1H)-one trifluoroacetate, mp 247° C. (dec). (α)DMeOH -18°. Anal. Calcd. for C10H11N3O.C2HF3O2 : C, 47.53; H, 3.99; F, 18.80; N, 13.97. Found: C, 47.31; H, 4.26; F, 17.37; N, 13.48.

reactant | (-) t-Butoxycarbonyl N-(1,2,5,6-tetrahydro-2-oxo-4H-imidazo(4,5,1-ij)quinolin-5-yl)-L-phenylalaninamide | 1.8 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NC1CN2C3=C(C=CC=C3C1)NC2=O | C24H28N4O4
solvent | hydrogen chloride | 4.0 N, 50 mL | Cl | ClH
product | (-) N-(1,2,5,6-tetrahydro-2-oxo-4H-imidazo(4,5,1-ij)quinolin-5-yl)phenylalaninamide | 1.4 g | O=C1NC=2C=CC=C3CC(CN1C23)NC([C@@H](N)CC2=CC=CC=C2)=O | C19H20N4O2
